US08975254B2
a) 4-bromo-3-chloro-5-fluoroaniline
To a cooled (0° C.) solution of 3-chloro-5-fluoroaniline (5.0 g, 33 mmol) in MeCN (50 ml) was added a suspension of N-bromosuccinimide (5.9 g, 33 mmol) in MeCN (10 ml). After being stirred for 2 h at RT the reaction was quenched by adding 10% NaHSO3 (50 ml). The mixture was concentrated to about half of the volume, diluted with water (50 ml) and extracted with EtOAc (3×50 ml). Combined organic phases were dried over Na2SO4 and evaporated to give crude product, which was purified by CombiFlash (column: silica, eluent: 0-100% EtOAc in heptane) to yield 5.5 g (74%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 5.88 (bs, 2H), 6.45 (dd, 1H), 6.64 (m, 1H).

reactant | 3-chloro-5-fluoroaniline | 33 mmol, 5.0 g | ClC=1C=C(N)C=C(C1)F | C6H5ClFN
reactant | N-bromosuccinimide | 33 mmol, 5.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | MeCN | 50 ml | CC#N | C2H3N
solvent | MeCN | 10 ml | CC#N | C2H3N
product | 4-bromo-3-chloro-5-fluoroaniline | 5.5 g, 74% | BrC1=C(C=C(N)C=C1F)Cl | C6H4BrClFN
